US04234737
A process for preparing thienylglyoxamide which comprises reacting thiophene carboxylic acid chloride with aqueous sodium cyanide in methylene chloride solvent and in the presence of a phase transfer catalyst to form thiophene carboxylic acid cyanide and reacting said thiophene carboxylic acid cyanide with concentrated hydrochloric acid at a temperature and for a time sufficient to form thienylglyoxamide.

reactant | thiophene carboxylic acid chloride | S1C(=CC=C1)C(=O)Cl | C5H3ClOS
reactant | sodium cyanide | [C-]#N.[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | thiophene carboxylic acid cyanide | S1C(=CC=C1)C(=O)C#N | C6H3NOS
